US08633319B2
Intermediate 14: 1,1-Dimethylethyl (3R)-3-[({7-[1-(1,1-dimethylethyl)-1H-pyrazol-4-yl]-1,6-naphthyridin-5-yl}amino)methyl]-3-fluoro-1-piperidinecarboxylate
To a solution of 1,1-dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate (1.300 g, 3.29 mmol) in 1,4-dioxane (10 ml) was added 1-(1,1-dimethylethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.906 g, 3.62 mmol), caesium carbonate (2.145 g, 6.58 mmol), tetrakis(triphenylphosphine)palladium (0) (0.114 g, 0.099 mmol) and water (2 ml). The reaction mixture was heated in the microwave at 130° C. for 2 h. LCMS shows main peak of product with no starting material. The reaction mixture was filtered through 10 g celite and partitioned between ethyl acetate and water (100 ml×2). The organic layer was washed with brine (100 ml), evaporated the solvent and dissolved in minimum amount of DCM. This was loaded on to a 100 g silica column and purified on SP4 eluting with 20-90% ethyl acetate in cyclohexane over 22 CVs. Appropriate fractions were collected and the solvent was evaporated. The product was dried on high vacuum overnight to give the title compound as a yellow crystalline solid (1.586 g).

reactant | 1,1-dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate | 3.29 mmol, 1.300 g | ClC1=NC(=C2C=CC=NC2=C1)NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C19H24ClFN4O2
reactant | 1-(1,1-dimethylethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 3.62 mmol, 0.906 g | CC(C)(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | caesium carbonate | 6.58 mmol, 2.145 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 2 ml | O | H2O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.099 mmol, 0.114 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-Dimethylethyl (3R)-3-[({7-[1-(1,1-dimethylethyl)-1H-pyrazol-4-yl]-1,6-naphthyridin-5-yl}amino)methyl]-3-fluoro-1-piperidinecarboxylate | 1.586 g | CC(C)(C)N1N=CC(=C1)C1=NC(=C2C=CC=NC2=C1)NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C26H35FN6O2
